US04556674
(a) 1-Ethyl-4-phenyl-pyrrolidin-2-one
A mixture of 4-phenyl-pyrrolidin-2-one (24.2 g; 0.15 mole) and sodium hydride (80% oil suspension) (5.4 g; 0.18 mole) in tetrahydrofuran (150 ml) is refluxed for 2.5 hrs. After cooling, ethyl iodide (29 g; 0.185 mole) is added thereto, and the resulting material is refluxed for another 5 hrs. The solvent is then evaporated off; the residue is taken up into chloroform, washed with water, dried and distilled. B.p. (0.2 mm Hg)=124°-126° C. Yield: 57%.

reactant | 4-phenyl-pyrrolidin-2-one | 0.15 mole, 24.2 g | C1(=CC=CC=C1)C1CC(NC1)=O | C10H11NO
reactant | sodium hydride | 0.18 mole, 5.4 g | [H-].[Na+]
reactant | ethyl iodide | 0.185 mole, 29 g | C(C)I | C2H5I
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-Ethyl-4-phenyl-pyrrolidin-2-one | Yield: 57% | C(C)N1C(CC(C1)C1=CC=CC=C1)=O | C12H15NO
